US05153352
Step A: N-t-butyloxycarbonyl-1-aminomethyl-3-methylenecyclobutane
In a round bottom flask were placed 10 g of 1-aminomethyl-3-methylenecyclobutane (Caserio, F. F.; Parker, S. H.; Piccolini, R.; Roberts, J. D. J. Am. Chem. Soc. 1958, 80, 5507-5513) and 80 mL of dichloromethane. To this solution, at 0° C., were added 43.4 mL of triethylamine followed by 24.5 g of di-t-butyl dicarbonate over a period of 20 min. The reaction mixture was stirred for 3 days, washed with aqueous phosphoric acid, saturated aqueous sodium bicarbonate and brine, dried, and then concentrated to afford 19.7 g of the title compound.

reactant | 1-aminomethyl-3-methylenecyclobutane | 10 g | NCC1CC(C1)=C | C6H11N
reactant | dichloromethane | 80 mL | ClCCl | CH2Cl2
reactant | di-t-butyl dicarbonate | 24.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | triethylamine | 43.4 mL | C(C)N(CC)CC | C6H15N
product | N-t-butyloxycarbonyl-1-aminomethyl-3-methylenecyclobutane | 19.7 g | C(C)(C)(C)OC(=O)NCC1CC(C1)=C | C11H19NO2
